US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and 2-butanol there is obtained 2-butyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resinous product, 1H-NMR(CDCl3): 1.02 (t, CH2CH3), 1.35 (d, CH--CH3), 1.4-2.0 (m, 2H), 4.23 (s, 4H), 4.83 (m, 1H), 7.3-7.7 (8H);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 2-butanol | CC(CC)O | C4H10O
product | 2-butyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OC(C)CC)=N | C19H22N2O
